US03987047
2,3,4,5-Tetrahydro-5-hydroxy-11-methyl-1H-azepino[4,3-b]quinoline dihydrochloride was prepared from 5-(ethoxy-carbonyloxy)-2,3,4,5-tetrahydro-11-methyl-1H-2-azepino[4,3-b]quinoline-carboxylic acid ethyl ester by hydrolysis with 2 N hydrochloric acid.

reactant | 5-(ethoxy-carbonyloxy)-2,3,4,5-tetrahydro-11-methyl-1H-2-azepino[4,3-b]quinoline-carboxylic acid ethyl ester | C(C)OC(=O)N1CC=2C(=NC=3C=CC=CC3C2C)C(CC1)OC(=O)OCC | C20H24N2O5
reactant | hydrochloric acid | 2 N | Cl | ClH
product | 2,3,4,5-Tetrahydro-5-hydroxy-11-methyl-1H-azepino[4,3-b]quinoline dihydrochloride | Yield: 70% | Cl.Cl.OC1CCNCC=2C1=NC=1C=CC=CC1C2C | InChI=1S/C14H16N2O.2ClH/c1-9-10-4-2-3-5-12(10)16-14-11(9)8-15-7-6-13(14)17;;/h2-5,13,15,17H,6-8H2,1H3;2*1H
